US07332510B2
4-(2-Methyl-1H-imidazol-4-ylethynyl)-pyridine-2-carbonitrile
Triphenylphosphine (126 mg, 0.48 mmol), bis(triphenylphosphine)palladium(II)chloride (1.01 g, 1.44 mmol) and triethylamine (3.65 g, 101.2 mmol) were dissolved in 40 ml of dry THF. This mixture was evacuated and backfilled with argon several times to remove oxygen from the solution. 4-iodo-2-methyl-1H-imidazole [Tetrahedron Letters 30(11), 1409 (1989)] (5.0 g, 20.8 mmol), 4-trimethylsilanylethynyl-pyridine-2-carbonitrile (4.43 g, 22.1 mmol) and copper (I) iodide (46 mg, 0.24 mmol) were added and the mixture was warmed to 60° C. A 1M solution of tetrabutylammonium fluoride (24 ml, 24.0 mmol) was added dropwise over a period of 30 min. After the addition was finished, the reaction mixture was stirred at 60° C. for another hour. The solvent was evaporated. The residue was taken up in 200 mL water and extracted three times with 200 ml of ethyl acetate. The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (methanol/methylene chloride 5:95). The desired product was obtained as a light yellow solid (1.06 g, 21%). MS: m/e=208.9 (M+).

reactant | Triphenylphosphine | 0.48 mmol, 126 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 101.2 mmol, 3.65 g | C(C)N(CC)CC | C6H15N
reactant | 4-iodo-2-methyl-1H-imidazole | 20.8 mmol, 5.0 g | IC=1N=C(NC1)C | C4H5IN2
reactant | 4-trimethylsilanylethynyl-pyridine-2-carbonitrile | 22.1 mmol, 4.43 g | C[Si](C)(C)C#CC1=CC(=NC=C1)C#N | C11H12N2Si
reactant | tetrabutylammonium fluoride | 24.0 mmol, 24 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 1.44 mmol, 1.01 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 0.24 mmol, 46 mg | [Cu]I
product | 4-(2-Methyl-1H-imidazol-4-ylethynyl)-pyridine-2-carbonitrile | CC=1NC=C(N1)C#CC1=CC(=NC=C1)C#N | C12H8N4
